* Z:\celera\projects\Simplis\playbrian\Verification\verif301b\verification\sim_TIMINGSKEWfall0p5n.sxsch
*#SIMETRIX
X$CV 12 celera vars: simulation_module='name' status='dev' simulation='typical'

.node_map out2 18
.node_map out3 17
.node_map out4 16
.node_map out5 14
.node_map in2 22
.node_map in3 21
.node_map in4 20
.node_map GND 15
.node_map in 13
.node_map in5 19
.options
+ PSP_NPT=10001
+ POP_ITRMAX=20
+ POP_OUTPUT_CYCLES=5
+ POP_SHOWDATA
+ SNAPSHOT_INTVL=0
+ SNAPSHOT_NPT=11
+ MIN_AVG_TOPOLOGY_DUR=1a
+ AVG_TOPOLOGY_DUR_MEASUREMENT_WINDOW=128
*.pop TRIG_GATE={{TRIG_GATE}} TRIG_COND=0_TO_1 MAX_PERIOD=1u CONVERGENCE=1p CYCLES_BEFORE_LAUNCH=5 TD_RUN_AFTER_POP_FAILS=-1
.tran 300u 0
.globalvar REF=1.0
.globalvar TEMP=25
.globalvar VIN=5
.globalvar tdext_khz=1000
.globalvar celera_i2c_frequency_KHz=100


X$TIMINGSKEWfall0p5n 13 22 21 20 19 18 17 16 14 TIMINGSKEWfall0p5n
X$U1 0 celera vars: simulation_module='name' status='dev' simulation='typical'
** From Z:\celera\projects\Simplis\playbrian\Verification\verif301b\verification\FORCE_TIMINGSKEWfall0p5n.sxcmp


** From Z:\celera\projects\Simplis\playbrian\Verification\verif301b\design\TIMINGSKEWfall0p5n.sxcmp
.subckt TIMINGSKEWfall0p5n 62 63 61 60 59 58 57 56 55
*#hierarchy
.node_map out2 58
.node_map out3 57
.node_map out4 56
.node_map out5 55
.node_map in2 63
.node_map in3 61
.node_map in 62
.node_map in4 60
.node_map in5 59
X$pinprobe19 62 pinprobe vars: pinprobe_description='input_signal' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd' pinprobe_bits=
X$pinprobe23 63 pinprobe vars: pinprobe_description='input2' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='pad' pinprobe_bits=
X$pinprobe28 61 pinprobe vars: pinprobe_description='input3' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='pad' pinprobe_bits=
X$pinprobe33 60 pinprobe vars: pinprobe_description='input4' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='pad' pinprobe_bits=
X$pinprobe38 59 pinprobe vars: pinprobe_description='input5' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='pad' pinprobe_bits=
X$pinprobe43 58 pinprobe vars: pinprobe_description='output2' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='pad' pinprobe_bits=
X$pinprobe48 57 pinprobe vars: pinprobe_description='output3' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='pad' pinprobe_bits=
X$pinprobe53 56 pinprobe vars: pinprobe_description='output4' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='pad' pinprobe_bits=
X$pinprobe58 55 pinprobe vars: pinprobe_description='output5' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='pad' pinprobe_bits=
X$TIMINGSKEWin2 63 dftprobeModel1 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='TIMINGSKEWin2' dftprobe_description='input2' dftprobe_highvoltage=6 dftprobe_enable=1 dftprobe_vmax=6
X$TIMINGSKEWin3 61 dftprobeModel1 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='TIMINGSKEWin3' dftprobe_description='input3' dftprobe_highvoltage=6 dftprobe_enable=1 dftprobe_vmax=6
X$TIMINGSKEWin4 60 dftprobeModel1 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='TIMINGSKEWin4' dftprobe_description='input4' dftprobe_highvoltage=6 dftprobe_enable=1 dftprobe_vmax=6
X$TIMINGSKEWin5 59 dftprobeModel1 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='TIMINGSKEWin5' dftprobe_description='output5' dftprobe_highvoltage=6 dftprobe_enable=1 dftprobe_vmax=6
X$TIMINGSKEWout2 58 dftprobeModel1 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='TIMINGSKEWout2' dftprobe_description='output2' dftprobe_highvoltage=6 dftprobe_enable=1 dftprobe_vmax=6
X$TIMINGSKEWout3 57 dftprobeModel1 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='TIMINGSKEWout3' dftprobe_description='output3' dftprobe_highvoltage=6 dftprobe_enable=1 dftprobe_vmax=6
X$TIMINGSKEWout4 56 dftprobeModel1 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='TIMINGSKEWout4' dftprobe_description='output4' dftprobe_highvoltage=6 dftprobe_enable=1 dftprobe_vmax=6
X$TIMINGSKEWout5 55 dftprobeModel1 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='TIMINGSKEWout5' dftprobe_description='output5' dftprobe_highvoltage=6 dftprobe_enable=1 dftprobe_vmax=6
XBUF2 63 62 dbuf vars: logicgate_type='dbuf' logicgate_vmax=6
XBUF3 61 62 dbuf vars: logicgate_type='dbuf' logicgate_vmax=6
XBUF4 60 62 dbuf vars: logicgate_type='dbuf' logicgate_vmax=6
XBUF5 59 62 dbuf vars: logicgate_type='dbuf' logicgate_vmax=6
XSKEW2 63 35 39 43 47 51 58 timingskew vars: timingskew_type='fall' timingskew_control='register' timingskew_dft='no' timingskew_datasheet_name='T1' timingskew_datasheet_description='T1' timingskew_por='1' timingskew_bits=2 timingskew_lsb=0.5 timingskew_supply=5 timingskew_vmax=6
XSKEW3 61 36 40 44 48 52 57 timingskew vars: timingskew_type='fall' timingskew_control='register' timingskew_dft='no' timingskew_datasheet_name='T2' timingskew_datasheet_description='T2' timingskew_por='7' timingskew_bits=3 timingskew_lsb=0.5 timingskew_supply=3 timingskew_vmax=6
XSKEW4 60 37 41 45 49 53 56 timingskew vars: timingskew_type='fall' timingskew_control='register' timingskew_dft='no' timingskew_datasheet_name='T3' timingskew_datasheet_description='T3' timingskew_por='15' timingskew_bits=4 timingskew_lsb=0.5 timingskew_supply=5 timingskew_vmax=6
XSKEW5 59 38 42 46 50 54 55 timingskew vars: timingskew_type='fall' timingskew_control='register' timingskew_dft='no' timingskew_datasheet_name='T4' timingskew_datasheet_description='T4' timingskew_por='1' timingskew_bits=5 timingskew_lsb=0.5 timingskew_supply=5 timingskew_vmax=6
.ends TIMINGSKEWfall0p5n

.end
